US04736067
Preparation of 4-amino-2,6-dimethyl-N-methylaniline dihydrochloride
A suspension of 15.5 g of powdered zinc and 0.6 g of ammonium chloride is heated to reflux. After the source of heat has been removed, 0.02 mole (3.6 g) of 2,6-dimethyl-4-nitro-N-methylaniline is added so as to maintain reflux. At the end of the addition, the reaction mixture is filtered boiling into a solution of 0.05 mole of hydrochloric acid in 14 ml of absolute ethanol; the dihydrochloride crystallises from the filtrate. After recrystallisation from an alcohol-water mixture, a white product is obtained:

reactant | ammonium chloride | 0.6 g | [Cl-].[NH4+]
reactant | 2,6-dimethyl-4-nitro-N-methylaniline | 0.02 mole, 3.6 g | CC1=C(NC)C(=CC(=C1)[N+](=O)[O-])C | C9H12N2O2
reactant | hydrochloric acid | 0.05 mole | Cl | ClH
solvent | ethanol | 14 ml | C(C)O | C2H6O
catalyst | zinc | 15.5 g | [Zn] | Zn
product | 4-amino-2,6-dimethyl-N-methylaniline dihydrochloride | Cl.Cl.NC1=CC(=C(NC)C(=C1)C)C | InChI=1S/C9H14N2.2ClH/c1-6-4-8(10)5-7(2)9(6)11-3;;/h4-5,11H,10H2,1-3H3;2*1H
